US04545995
N,N-Diethyl-1-heptanamine
Dissolve 50.90 ml (0.5 moles) diethylamine and 57.10 g (0.5 mole) heptaldehyde in 500 ml methanol and stir at room temperature for one hour. Slowly add 31.42 g sodium cyanoborohydride in 500 ml methanol to the stirred reaction mixture. Add glacial acetic acid to the reaction mixture until pH=6. Stir at room temperature overnight. Concentrate reaction mixture volume to 300 ml and then add 500 ml distilled water. Add concentrated hydrochloric acid until pH=1. Extract with 5×250 ml methylene chloride. Evaporate organic solvent and then dissolve the residue in 400 ml 0.1N HCl. Wash aqueous solution with 3×200 ml diethyl ether and then add 2N NaOH until solution is basic (pH=12). Extract with 3×200 ml diethyl ether. Dry over MgSO4, filter and evaporate, the distill in vacuo to obtain 46.0 g (53.7%) title compound.

reactant | diethylamine | 0.5 moles, 50.90 ml | C(C)NCC | C4H11N
reactant | heptaldehyde | 0.5 mole, 57.10 g | C(CCCCCC)=O | C7H14O
reactant | sodium cyanoborohydride | 31.42 g | C(#N)[BH3-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 500 ml | CO | CH4O
solvent | methanol | 500 ml | CO | CH4O
product | N,N-Diethyl-1-heptanamine | 46.0 g, 53.7% | C(C)N(CCCCCCC)CC | C11H25N
